US08871756B2
2-Azido-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropanamide
To a solution of 2-bromo-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropanamide (160 mg, 0.319 mmol) in actonitrile (15 mL) was added sodium azide (62 mg, 0.958 mmol). After being refluxed overnight, the resulting mixture was concentrated in vacuo. The residue was diluted with ethyl acetate (40 mL), washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford 160 mg of the crude product.

reactant | 2-bromo-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropanamide | 0.319 mmol, 160 mg | BrC(C(=O)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)(C)C | C23H24BrN3O3S
reactant | sodium azide | 0.958 mmol, 62 mg | [N-]=[N+]=[N-].[Na+]
solvent | actonitrile | 15 mL | C(C)#N | C2H3N
product | 2-Azido-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropanamide | 160 mg | N(=[N+]=[N-])C(C(=O)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)(C)C | C23H24N6O3S
